US09359338B2
Synthesis of N-[6-[3-[[4-chloro-3-(trifluoromethyl)phenyl]carbamoyl-amino]-4-fluoro-phenoxy]pyrimidin-4-yl]cyclopropanecarboxamide
Dissolve N-[6-(3-amino-4-fluoro-phenoxy)pyrimidin-4-yl]cyclopropanecarboxamide (400 mg, 1.4 mmol) in THF (4 mL) and DCM (10 mL), add 4-chloro-3-(trifluoromethyl)phenyl isocynate (1.4 g, 6.3 mmol). Stir the reaction at room temperature overnight. Filter and collect the solid to get the title compound (545 mg, 77%). MS: (M+1): 510.2.

reactant | N-[6-(3-amino-4-fluoro-phenoxy)pyrimidin-4-yl]cyclopropanecarboxamide | 1.4 mmol, 400 mg | NC=1C=C(OC2=CC(=NC=N2)NC(=O)C2CC2)C=CC1F | C14H13FN4O2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocynate | 6.3 mmol, 1.4 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[6-[3-[[4-chloro-3-(trifluoromethyl)phenyl]carbamoyl-amino]-4-fluoro-phenoxy]pyrimidin-4-yl]cyclopropanecarboxamide | 545 mg, 77% | ClC1=C(C=C(C=C1)NC(=O)NC=1C=C(OC2=CC(=NC=N2)NC(=O)C2CC2)C=CC1F)C(F)(F)F | C22H16ClF4N5O3
